US04125728
Methyl 3-(phenylcarbamoyl)carbazate
A solution of methyl carbazate (91.9 g, 1.02 moles) in 450 ml of benzene was added dropwise with stirring during 45 min. to phenyl isocyanate (122 g. 1.02 moles); a temperature rise to near 80° C. was observed. After addition of the ester solution the mixture was heated under reflux, with stirring, for 45 min. Stirring was continued at ambient temperature for 15 hr. Removal of volatiles under reduced pressure gave 210.6 g (99%) of product ester, as long prisms, m.p. 154°-155°. Recrystallization from isopropyl alcohol/ethanol (4/1) gave a polymorph as chunky crystals, m.p. 166°-168°.

reactant | methyl carbazate | 1.02 moles, 91.9 g | C(NN)(=O)OC | C2H6N2O2
reactant | phenyl isocyanate | 1.02 moles, 122 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | benzene | 450 ml | C1=CC=CC=C1 | C6H6
product | Methyl 3-(phenylcarbamoyl)carbazate | 210.6 g, 99% | C1(=CC=CC=C1)NC(=O)NNC(=O)OC | C9H11N3O3
